US03963733
The above prepared 3-bromo-2-(4,4-dimethyl-2-oxazolinyl)pyridine is reacted with the sodium salt of p-methoxybenzyl mercaptan by the procedure of Example 1 to give 2-(4,4-dimethyl-2-oxazolinyl)-3-(p-methoxybenzylthio)pyridine.

reactant | 3-bromo-2-(4,4-dimethyl-2-oxazolinyl)pyridine | BrC=1C(=NC=CC1)C=1OCC(N1)(C)C | C10H11BrN2O
reactant | sodium | [Na] | Na
reactant | p-methoxybenzyl mercaptan | COC1=CC=C(CS)C=C1 | C8H10OS
product | 2-(4,4-dimethyl-2-oxazolinyl)-3-(p-methoxybenzylthio)pyridine | CC1(N=C(OC1)C1=NC=CC=C1SCC1=CC=C(C=C1)OC)C | C18H20N2O2S
